US06313122B1
B. N-(3-Hydroxy-5-methoxyphenyl)-2-[(4-tert-butylbenzoyl)amino]benzamide
To a stirred suspension N-(3,5-dimethoxyphenyl)-2-[(4-tert-butylbenzoyl)amino]benzamide (1.0 g, 2.3 mmol) in dichloromethane (42 mL) was added a solution of boron tribromide (0.66 mL, 6.9 mmol) in dichloromethane (7 mL) via an addition funnel. After 30 min, a second portion of boron tribromide (0.66 mL, 6.9 mmol) in dichloromethane (7 mL) was added. After 30 min, saturated aqueous sodium bicarbonate solution was added and the solvents were removed in vacuo. The residue was dissolved in ethyl acetate and washed with saturated aqueous sodium bicarbonate solution, saturated aqueous sodium chloride solution, dried (magnesium sulfate), filtered, and concentrated in vacuo. Chromatography (silica gel, 30% ethyl acetate/70% hexanes) provided 96 mg (10%) of the title compound as a white solid.

reactant | N-(3,5-dimethoxyphenyl)-2-[(4-tert-butylbenzoyl)amino]benzamide | 2.3 mmol, 1.0 g | COC=1C=C(C=C(C1)OC)NC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C26H28N2O4
reactant | boron tribromide | 6.9 mmol, 0.66 mL | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 6.9 mmol, 0.66 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 42 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | N-(3-Hydroxy-5-methoxyphenyl)-2-[(4-tert-butylbenzoyl)amino]benzamide | 96 mg, 10% | OC=1C=C(C=C(C1)OC)NC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C25H26N2O4
